US06495546B1
A solution of N-benzyl-N-(6,7,8,9-tetrahydro-2-hydroxy-5H-benzocyclohepten-6-yl)-tert-butoxycarbonylamine (166 mg) and N-chlorosuccinimide (66.4 mg) in 1,4-dioxane (2 ml) was refluxed for 28 hours, cooled to room temperature, and partitioned between ethyl acetate and brine. The organic layer was separated, washed with brine, dried over sodium sulfate, and evaporated in vacuo. The residue was chromatographed (toluene -ethyl acetate) over silica gel (3.6 g) to afford N-benzyl-N-(3-chloro-6,7,8,9-tetrahydro-2-hydroxy-5H-benzocyclohepten-6-yl)-tert-butoxycarbonylamine (139 mg) as a colorless gum.

reactant | N-benzyl-N-(6,7,8,9-tetrahydro-2-hydroxy-5H-benzocyclohepten-6-yl)-tert-butoxycarbonylamine | 166 mg | C(C1=CC=CC=C1)N(C1CC2=C(CCC1)C=C(C=C2)O)C(=O)OC(C)(C)C | C23H29NO3
reactant | N-chlorosuccinimide | 66.4 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | N-benzyl-N-(3-chloro-6,7,8,9-tetrahydro-2-hydroxy-5H-benzocyclohepten-6-yl)-tert-butoxycarbonylamine | 139 mg | C(C1=CC=CC=C1)N(C1CC2=C(CCC1)C=C(C(=C2)Cl)O)C(=O)OC(C)(C)C | C23H28ClNO3
